US06281252B1
49. Poly(TAEA-acrylamide)
Poly(NHS-acrylate) (4.4 g) was suspended in a solution containing water (100 mL) and tris(2-aminoethyl)amine (30 mL) which had been adjusted to pH 9 with concentrated HCl. After 4 days of stirring, the solid was filtered off, and the wash repeated. The solid was then rinsed briefly with water twice, isopropanol once, and dried in a vacuum oven to yield 3.4 g.

reactant | acrylate | C(C=C)(=O)[O-]
reactant | tris(2-aminoethyl)amine | 30 mL | NCCN(CCN)CCN | C6H18N4
reactant | HCl | Cl | ClH
solvent | water | 100 mL | O | H2O
product | TAEA acrylamide | C(CN(CCN)CCN)N.C(C=C)(=O)N | InChI=1S/C6H18N4.C3H5NO/c7-1-4-10(5-2-8)6-3-9;1-2-3(4)5/h1-9H2;2H,1H2,(H2,4,5)
